Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.15025858956
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1],3.5378244590599994
[H:1][O:2][C:3][C:4]([H:8])([H:9])[H:10].[O:5]([H:6])[C:7]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.91169340258
[O:1]=[C:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9],1.4037118665
[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.2058417608500003
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1].[O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.632494895290001
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.03846475286
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4],2.7691297666400003
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.45032889292
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:11][H:12],2.08476010024
[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][C:5]([H:6])([H:7])[H:8].[C:3]#[C:4],7.322145957739999
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]1[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],3.0724467402
[C:1]#[C:2].[C:3][O:4][H:5]>>[C:1]#[C:2][C:3][O:4][H:5],-6.23125127645
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.99122042302
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.6746825657100002
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],-1.75033974127
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.28762381823
[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.85847836187
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][H:5],-0.71895707757
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11].[H:8],2.29987764716
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:12][H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],8.74836114287
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5]([H:6])([H:7])[H:14].[H:1]/[C:2](=[C:3](/[H:4])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13])[C:15]([H:16])([H:17])[H:18],3.87341301856
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],4.98607545646
[H:7].[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.000094142509999
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-4.85029132412
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:10][O:11][C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15],-1.84313989876
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8].[H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9],-4.898805746080001
[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]1([H:7])[C:8][O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],0.88895162313
